US04125538
7-Chloro-4-(2-chloroacetyl)-5-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine (2.3 g, 8.8 millimoles), prepared as described in Example 4a was dissolved in 100 ml CH2Cl2, to which solution was added diethylamine (6.5 g; 88.0 millimoles). The resulting solution was allowed to stir at room temperature for 18 hours after which the solvent was removed. The residue was extracted with diethyl ether. The ethereal solution was washed with three portions of H2O, with brine, and was dried over Na2So4, filtered and evaporated, thereby affording crude 7-chloro-4-(2-diethylaminoacetyl)-5-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine as a viscous oil. The crude material was reduced with LiAlH4 (0.55 g; 14.6 millimoles) in diethyl ether by the general procedure of Example 5. The dihydrochloride salt was prepared, thereby affording a 52% yield of the title compound; mp 113° C (dec).

reactant | 7-Chloro-4-(2-chloroacetyl)-5-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine | 8.8 millimoles, 2.3 g | ClC=1C=CC2=C(C(N(CCO2)C(CCl)=O)C2=CC=CC=C2)C1 | C17H15Cl2NO2
reactant | diethylamine | 88.0 millimoles, 6.5 g | C(C)NCC | C4H11N
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 7-chloro-4-(2-diethylaminoacetyl)-5-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine | ClC=1C=CC2=C(C(N(CCO2)C(CN(CC)CC)=O)C2=CC=CC=C2)C1 | C21H25ClN2O2
